US08183380B2
N-(cyclopropylmethyl)-N′-{2-[(1R)-2,3-dihydro-1H-inden-1-ylamino]quinolin-6-yl}-N-methylsulfamide
The title compound was prepared in accordance with step C of the general method described in example 76 from 3-(cyclopropylmethyl-methyl-sulfamoyl)-1-methyl-3-H-imidazol-1-ium trifluoromethanesulfonate and (R)—N2-indan-1-yl-quinoline-2,6-diamine; MS: m/e=423.7 (M+H+).

reactant | 3-(cyclopropylmethyl-methyl-sulfamoyl)-1-methyl-3-H-imidazol-1-ium trifluoromethanesulfonate | FC(S(=O)(=O)[O-])(F)F.C1(CC1)CN(S(=O)(=O)N1C=[N+](C=C1)C)C
reactant | (R)—N2-indan-1-yl-quinoline-2,6-diamine | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)N | C18H17N3
product | N-(cyclopropylmethyl)-N′-{2-[(1R)-2,3-dihydro-1H-inden-1-ylamino]quinolin-6-yl}-N-methylsulfamide | C1(CC1)CN(S(=O)(=O)NC=1C=C2C=CC(=NC2=CC1)N[C@@H]1CCC2=CC=CC=C12)C | C23H26N4O2S
